US07875715B2
Intermediate 105: 6-(Ethylsulfonyl)-2H-1,4-benzoxazin-3 (4H)-one
Commercially available 4-ethylsulfonyl-2-aminophenol (4.02 g, 20 mmol) was dissolved in DMF (30 mL) and mixed with cesium carbonate (6.5 g, 20 mmol). The reaction mixture was cooled to 0° C. and bromoacetyl bromide (4.0 g, 20 mmol) in DMF (5 mL) was added dropwise. The reaction was stirred overnight at room temperature. After aqueous work up, the product was purified by silica gel chromatography with methanol/dichloromethane to give the product as an orange solid, 1.7 g (35%).

reactant | 4-ethylsulfonyl-2-aminophenol | 20 mmol, 4.02 g | C(C)S(=O)(=O)C1=CC(=C(C=C1)O)N | C8H11NO3S
reactant | cesium carbonate | 20 mmol, 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetyl bromide | 20 mmol, 4.0 g | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(Ethylsulfonyl)-2H-1,4-benzoxazin-3 (4H)-one | C(C)S(=O)(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C10H11NO4S
